US06559164B1
A solution of 200 mg (0.47 mmole) of 1-hydroxymethyl-3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione, prepared as in the example 1a, was dissolved in 90 ml of THF and treated with 300 mg (2.5 mmol) of 4-dimethylaminopyridine (DMAP). To this solution at 5° C. was added 90 mg (0.75 mmole) of allyl chloroformate. While still cool, 300 mg (2.4 mmol) of 1,5-diazabicyclo(4.3.0)non-5-ene (DBN) (Aldrich) was added dropwise. This was stirred for 14 hours at 20° C. The solvent was evaporated and the mixture was purified by chromatography using silica gel and eluting with a mixture of EtOAc/Hexane to afford carbonic acid allyl ester 3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl ester as a red solid (m.p. 191-194° C.).

reactant | 1-hydroxymethyl-3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione | 0.47 mmole, 200 mg | OCN1C(C(=C(C1=O)C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)C1=CN(C2=CC=CC=C12)C)=O | C23H18N4O5
reactant | allyl chloroformate | 0.75 mmole, 90 mg | ClC(=O)OCC=C | C4H5ClO2
reactant | 1,5-diazabicyclo(4.3.0)non-5-ene | 2.4 mmol, 300 mg | N12CCCN=C2CCC1 | C7H12N2
solvent | THF | 90 ml | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 2.5 mmol, 300 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | carbonic acid allyl ester 3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl ester | CN1C=C(C2=CC=CC=C12)C=1C(N(C(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)COC(OCC=C)=O)=O | C27H22N4O7
